US07897607B2
N-[(6-mesitylpyridin-2-yl)methyl]-N-propylpropan-1-amine
N-[(6-Bromopyridin-2-yl)methyl]-N-propylpropan-1-amine (7.0 g, 26 mmol) was dissolved in 1,2-dimethoxyethane (100 mL). Tetrakis(triphenylphosphine)palladium(0) (1.49 g, 1.29 mmol) was added and the solution was heated to 50° C. for 15 minutes. The solution was cooled and 2,4,6-trimethylbenzeneboronic acid (4.44 g, 27.1 mmol) in 30 mL 1,2 dimethoxyethane was added followed by potassium tert-butoxide (5.79 g, 51.6 mmol) in 30 mL of tBuOH. The reaction was heated at 90° C. for 0.5 h. The solution was filtered through filter paper and concentrated. Flash chromatography gave 3.83 g of the title compound (48% yield).

reactant | N-[(6-Bromopyridin-2-yl)methyl]-N-propylpropan-1-amine | 26 mmol, 7.0 g | BrC1=CC=CC(=N1)CN(CCC)CCC | C12H19BrN2
reactant | 2,4,6-trimethylbenzeneboronic acid | 27.1 mmol, 4.44 g | CC1=C(C(=CC(=C1)C)C)B(O)O | C9H13BO2
reactant | potassium tert-butoxide | 51.6 mmol, 5.79 g | CC(C)([O-])C.[K+]
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
solvent | 1,2 dimethoxyethane | 30 mL | COCCOC | C4H10O2
solvent | tBuOH | 30 mL | CC(C)(C)O | C4H10O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 1.29 mmol, 1.49 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[(6-mesitylpyridin-2-yl)methyl]-N-propylpropan-1-amine | 3.83 g, 48% yield | C1(=C(C(=CC(=C1)C)C)C1=CC=CC(=N1)CN(CCC)CCC)C | C21H30N2
